US05318992
Mix 5-[3-(carbethoxyaminooxy)-propyl]-hydantoin (2.45 g, 10 mmol), barium hydroxide octahydrate (18.15 g, 10 mmol) and water (55 mL). Reflux for 12 hours, remove the white solid by filtration, extract the filter cake with boiling water (25 ml) and finally wash with hot water (25 mL). Combine the filtrate and washings, treat with ammonium carbonate (5.7 g) and heat with stirring. Filter off the barium carbonate, wash the filter cake with hot water and evaporate the filtrate and washings in vacuo to give 2-amino-5-aminooxy-pentanoic acid.

reactant | 5-[3-(carbethoxyaminooxy)-propyl]-hydantoin | 10 mmol, 2.45 g | C(=O)(OCC)NOCCCC1C(NC(N1)=O)=O | C9H15N3O5
reactant | barium hydroxide octahydrate | 10 mmol, 18.15 g | O.O.O.O.O.O.O.O.[OH-].[Ba+2].[OH-]
solvent | water | 55 mL | O | H2O
product | 2-amino-5-aminooxy-pentanoic acid | NC(C(=O)O)CCCON | C5H12N2O3
